US07265242B2
FIG. 1: 9-(2-{[di(tert-butyl)phosphino]methyl}-2-propenyl)-9-phosphabicyclo[3.3.1]nonane A mixture of di-tert-butylphoshine (5 g, 34.1 mmol) and 3-chloro-2-chloromethyl-1-propene (14.04 g, 69 mmol) was dissolved in degassed acetonitrile (70 ml) and heated to 60° C. for 16 hours. The solvent was removed in vacuo and the product was suspended in hexane (50 ml). After filtration the product was washed with hexane (2 times 40 ml). The white solid salt was neutralized in a mixture of toluene (50 ml) and water (30 ml) with HNEt2 (5 ml) under reflux conditions. The toluene layer was separated, washed with water (2 times 30 ml) and removed in vacuo, to yield 3.14 g (40%) of di(tert-butyl)[2-(chloromethyl)-2-propenyl]phosphine. The product could be characterized by showing a distinct resonance signals in 31P NMR at δ=+21.7 ppm.

reactant | 9-(2-{[di(tert-butyl)phosphino]methyl}-2-propenyl)-9-phosphabicyclo[3.3.1]nonane | C(C)(C)(C)P(C(C)(C)C)CC(CP1C2CCCC1CCC2)=C | C20H38P2
reactant | di-tert-butylphoshine | 34.1 mmol, 5 g | C(C)(C)(C)PC(C)(C)C | C8H19P
reactant | 3-chloro-2-chloromethyl-1-propene | 69 mmol, 14.04 g | ClCC(=C)CCl | C4H6Cl2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | di(tert-butyl)[2-(chloromethyl)-2-propenyl]phosphine | 3.14 g, 40% | C(C)(C)(C)P(CC(=C)CCl)C(C)(C)C | C12H24ClP
